US07276603B2
8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-chloro-quinoline was prepared by generally following the procedure outlined in example 21, step 6, starting from 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg, 1 mmol) and 6-chloro-8-piperazino quinoline (247 mg, 1 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yield a brown solid. MP: 72° C.; Yield: 130 mg (30%); (M+H): 422; 1HNMR (400 MHz, CDCl3): δ□8.86˜8.84 (dd, J1=1.7 Hz, J2=1.7 Hz, 1H); 8.05˜8.02 (dd, J1=1.7 Hz,J2=1.7 Hz, 1H); 7.60˜6.88 (m, 7H); 3.86 (s, 3H); 3.69˜2.57 (m, 12H).

reactant | 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC=1C=CC2=C(C(=CO2)CCI)C1 | C11H11IO2
reactant | 6-chloro-8-piperazino quinoline | 1 mmol, 247 mg | ClC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C13H14ClN3
product | 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-chloro-quinoline | COC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)Cl)C1 | C24H24ClN3O2
